US05807897
a. (-)N-formyl-(2S)-2-amino-8-methoxytetralin
As in example 6g, (-)(2S)-2-amino-8 -methoxytetralin (commercially available) (825 mg, 4.66 mmol) in 10 ml THF and 20 ml methylene chloride, was formylated with 906 mg (5.59 mmol) carbonyl diimidazole in 15 ml THF and 257 mg (5.59 mmol) formic acid in 3 ml THF. After stirring overnight, TLC analysis (silica gel; 10:90 CH3OH:CH2Cl2) indicated a major component, Rf 0.71, and absence of starting amine, Rf 0.22. The residue obtained on removal of solvent was dissolved in ethyl acetate, washed with 1N HCl, NaHCO3 solution, brine and dried (MgSO4). Filtration and removal of solvent in vacuo left a white solid, 850 mg (89%), mp 140°-141° C.

reactant | (-)(2S)-2-amino-8 -methoxytetralin | N[C@@H]1CC2=C(C=CC=C2CC1)OC | C11H15NO
reactant | carbonyl diimidazole | 5.59 mmol, 906 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | formic acid | 5.59 mmol, 257 mg | C(=O)O | CH2O2
reactant | CH3OH | CO | CH4O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (-)N-formyl-(2S)-2-amino-8-methoxytetralin | C(=O)N[C@@H]1CC2=C(C=CC=C2CC1)OC | C12H15NO2
